US04150139
To 4.6 g of 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine in 60 ml of tetrahydrofuran was added 2.4 g of paraformaldehyde together with 4.0 ml of a 40% solution of trimethylbenzylammonium hydroxide in methanol. After refluxing the mixture for 30 minutes, the solvent was evaporated off. The residue was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over Na2SO4. The solvent was then evaporated off and the residual crystals were collected by filtration, washed with isopropyl alcohol and dried. The above procedure provided 11-methylene-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine as crystals. Recrystallization from ethyl acetate yielded colorless needles melting at 121°-122° C.

reactant | 3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | 4.6 g | CSC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3S
reactant | paraformaldehyde | 2.4 g | C=O | CH2O
reactant | trimethylbenzylammonium hydroxide | [OH-].C[N+](CC1=CC=CC=C1)(C)C
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 11-methylene-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | C=C1C=2N(C=CC3=C1C=CC=C3)C(=NN2)SC | C13H11N3S
